US09290517B2
Step C: 6-chloro-2-(methylsulfonyl)-3H-imidazo[4,5-c]pyridine
To a stirring solution of 6-chloro-2-(methylthio)-3H-imidazo[4,5-c]pyridine (954.0 mg, 4.78 mmol) in 50% CH3CN/water (61.4 mL) was added potassium peroxymonosulfate (oxone, 6.46 g, 10.51 mmol). The reaction was stirred under N2 at RT for 15 h, then filtered and the filtrate added to a stirring mixture of EtOAc (1.27 L)/water (0.70 L). The aqueous layer was separated and back-extracted with EtOAc (0.25 L). The combined organic layers were evaporated under reduced pressure to afford the title compound. LC-MS: calculated for C7H6ClN3O2S 230.99 observed m/e: 231.98 (M+H)+ (Rt 1.72/2.0 min)

reactant | 6-chloro-2-(methylthio)-3H-imidazo[4,5-c]pyridine | 4.78 mmol, 954.0 mg | ClC1=CC2=C(C=N1)NC(=N2)SC | C7H6ClN3S
reactant | potassium peroxymonosulfate | 10.51 mmol, 6.46 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | CH3CN water | 61.4 mL | CC#N.O
product | 6-chloro-2-(methylsulfonyl)-3H-imidazo[4,5-c]pyridine | ClC1=CC2=C(C=N1)NC(=N2)S(=O)(=O)C | C7H6ClN3O2S
